US06271237B1
(2-Azidophenyl)methyl propiolate:
To a solution of 2-azidobenzyl alcohol (15.66 g, 105.1 mol) in 200 mL of methylene chloride was added propiolic acid (7.1 mL, 115.6 immol), dicyclohexylcarbodiimide (20.0 g, 110.3 mnmol) and 4-dimethylaminopyridine (1.93 g, 15.8 mmol). The resulting mixture was allowed to stir at ambient temperature for 18 h. The mixture was filtered, concentrated and the residue was purified by flash chromatography (elution with 1:1 hexanes/ethyl acetate) to afford 10.7 g (51%) of the title compound. 1H NMR (CDCl3) δ7.40 (m, 2H), 7.17 (m, 2H), 5.20 (s, 2H), 2.92 (s, 1H).

reactant | 2-azidobenzyl alcohol | 105.1 mol, 15.66 g | N(=[N+]=[N-])C1=C(CO)C=CC=C1 | C7H7N3O
reactant | propiolic acid | 7.1 mL | C(C#C)(=O)O | C3H2O2
reactant | dicyclohexylcarbodiimide | 20.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 15.8 mmol, 1.93 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (2-Azidophenyl)methyl propiolate | 10.7 g, 51% | C(C#C)(=O)OCC1=C(C=CC=C1)N=[N+]=[N-] | C10H7N3O2
